US07863314B2
C. 3-[5-Amino-4-(3-methoxybenzoyl)-pyrazol-1-yl]-4-methyl-benzoic acid
A solution of 2-(3-chlorobenzoyl)-3-phenylaminoacrylonitrile (63 mg, 0.22 mmol, 1.0 eq), 3-hydrazino-4-methylbenzoic acid hydrochloride (72 mg, 0.22 mmol, 1 eq), and triethylamine (31 μL, 0.22 mmol, 1.0 eq) in 10 mL of ethanol was heated to 65° C. for 20h. After cooling, the mixture was concentrated and the residue purified by flash chromatography on silica gel packed and eluted with 7/3 hexanes/ethyl acetate to remove byproducts followed by 3/2 ethyl acetate/hexanes to elute the title compound (15 mg, 32%) as a brown solid. HPLC (4 minute 10-90 gradient) tR 2.13.min; MS m/z 352.2 [M+H]+.

reactant | 2-(3-chlorobenzoyl)-3-phenylaminoacrylonitrile | 0.22 mmol, 63 mg, 1.0 eq | ClC=1C=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC1 | C16H11ClN2O
reactant | 3-hydrazino-4-methylbenzoic acid hydrochloride | 0.22 mmol, 72 mg, 1 eq | Cl.N(N)C=1C=C(C(=O)O)C=CC1C
reactant | triethylamine | 0.22 mmol, 31 μL, 1.0 eq | C(C)N(CC)CC | C6H15N
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[5-Amino-4-(3-methoxybenzoyl)-pyrazol-1-yl]-4-methyl-benzoic acid | NC1=C(C=NN1C=1C=C(C(=O)O)C=CC1C)C(C1=CC(=CC=C1)OC)=O | C19H17N3O4
